US04956416
1,3-Dimethyl-3-(t-butylperoxy)butyl carbazate was prepared by reacting 1,3-dimethyl-3-(t-butylperoxy)butyl chloroformate with 11 molar excess of 54% aqueous hydrazine.

reactant | 1,3-dimethyl-3-(t-butylperoxy)butyl chloroformate | ClC(=O)OC(CC(C)(OOC(C)(C)C)C)C | C11H21ClO4
reactant | hydrazine | NN | H4N2
product | 1,3-Dimethyl-3-(t-butylperoxy)butyl carbazate | C(NN)(=O)OC(CC(C)(OOC(C)(C)C)C)C | C11H24N2O4
